Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.80363153886
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11],-1.17285370017
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.07464466619
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-1.35931070072
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-5.13554193723
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[O:8][H:9],1.57206519055
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],2.17558371347
[O:1]=[C:2]([C:3][O:4][H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([O:4])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]([C:2])[H:5],0.627199880159
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.92103356167
[C:1][C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.59622838626
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2][H:3],3.4510951184900005
[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-7.6666786617
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.84744765516
[H:1][C:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:9]([C:8]#[C:6][H:7])([H:10])[H:11],-0.16627356243
[H:1][C:2][H:3].[O:4]=[C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-2.29303352846
[H:1][C:2][O:3]/[C:4](=[C:6](/[H:7])[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.28252437707
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.46538886051
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12].[H:4],1.94212890533
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.26496207764
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.98451096406
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.06178173726
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:14]([C:11]([C:8]([C:6][H:7])([H:9])[H:10])([H:12])[H:13])([H:15])[H:16],2.05841474945
[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.54759435437
[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-6.26804161025
[H:7].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.40780874301
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-3.1974342534400004
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.80306415685
